US08802850B2
tert-Butyl(R)-1-(5,6-dihydroxy-3-oxa-2-aza-bicyclo[2.2.1]heptan-2-yl)-1-oxopropan-2-ylcarbamate
A solution of tert-butyl-(R)-1-(3-oxa-2-aza-bicyclo[2.2.1]hept-5-en-2-yl)-1-oxopropan-2-ylcarbamate (27.3 g, 101.75 mmol, 1.00 equiv.) in teterahydrofuran:water (5:1) (600 mL), osmium tetroxide (230 mg, 0.90 mmol, 0.01 equiv.), and N-methylmorpholine-N-oxide (25.26 g, 215.62 mmol, 2.10 equiv.) was stirred at about 20° C. for about 50 minutes. After adding sodium thiolsulfate (22 g), the resulting solution was extracted with ethyl acetate (3×200 mL) and the organic layers combined. The organic phase was washed with a saturated sodium bicarbonate solution (1×250 mL) and then concentrated in vacuo to give the desired product as a yellow liquid (30.1 g; yield=98%). 1H NMR (300 MHz, CDCl3) δ: 5.29 (b, 1H), 4.36-4.74 (m, 3H), 3.76-4.09 (m, 4H), 2.67 (m, 1H), 1.90 (m, 1H), 1.43 (s, 9H), 1.30 (d, J=6.9 Hz, 3H).

reactant | tert-butyl-(R)-1-(3-oxa-2-aza-bicyclo[2.2.1]hept-5-en-2-yl)-1-oxopropan-2-ylcarbamate | 101.75 mmol, 27.3 g, 1.00 equiv. | C(C)(C)(C)OC(N[C@@H](C(=O)N1C2C=CC(O1)C2)C)=O | C13H20N2O4
reactant | N-methylmorpholine-N-oxide | 215.62 mmol, 25.26 g, 2.10 equiv. | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | water | 600 mL | O | H2O
catalyst | osmium tetroxide | 0.90 mmol, 230 mg, 0.01 equiv. | [Os](=O)(=O)(=O)=O
product | tert-Butyl(R)-1-(5,6-dihydroxy-3-oxa-2-aza-bicyclo[2.2.1]heptan-2-yl)-1-oxopropan-2-ylcarbamate | 30.1 g, yield=98% | OC1C2ON(C(C1O)C2)C([C@@H](C)NC(OC(C)(C)C)=O)=O | C13H22N2O6
